US04594342
A mixture of 3.75 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-benzyloxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 23 ml of acetic anhydride and 8 ml of pyridine is treated in the same manner as described in Example 1-(2). 4.18 g of (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-benzyloxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as an oil.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-benzyloxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3.75 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)OCC2=CC=CC=C2 | C34H34N2O6S
reactant | acetic anhydride | 23 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | (±)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-benzyloxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 4.18 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)OCC2=CC=CC=C2 | C36H36N2O7S
